US07018997B2
Step 1: Preparation of (3.4-Dihydro-2H-1-thia-4a,9-diaza-fluoren-6-yl)-methanol
To a round bottomed flask was added 4.06 grams of 2-Thioxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methyl ester, 4.04 grams of 1,3-dibromopropane and 50 ml DMF and 50 ml ethanol. The mixture was refluxed for 10 hours. Then it was concentrated to dry on a rotary evaporator. The solid was next dissolved in 100 ml THF and 20 ml of 1M LiAlH4 (in THF) was next injected within five minutes. The reaction media was stirred at room temperature for one hour. Ethanol was next added (˜10 ml), followed by 50 ml 2N HCl. The aqueous layer was adjusted to basic Ph=14 with 10N sodium hydroxide. The aqueous was extracted with 2×500 ml ethyl acetate. The combined organic layers was dried over magnesium sulfate. Filter off the drying agent and cocentrate yielded 3 grams (68%) product. NMR(DMSO): δ 7.91 (m, 3H), 4.13 (m, 2H), 3.93 (s, 1H), 3.23 (m, 2H, CH2), 2.48 (m, 2H, CH2). MS: 221.0 (M+H).

reactant | 2-Thioxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methyl ester | 4.06 grams | COC(=O)C1=CC2=C(NC(N2)=S)C=C1 | C9H8N2O2S
reactant | 1,3-dibromopropane | 4.04 grams | BrCCCBr | C3H6Br2
reactant | HCl | 2N, 50 ml | Cl | ClH
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | Ethanol | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (3.4-Dihydro-2H-1-thia-4a,9-diaza-fluoren-6-yl)-methanol | 3 grams, 68% | S1CCCN2C3=CC(=CC=C3N=C12)CO | C11H12N2OS
